US07511050B2
Step A: methyl 4-(2-benzoylhydrazino)-4-oxobutanoate
The mixture of benzhydrazide (1.5 g, 11.0 mmol), butanedioic acid, monomethyl ester (2.0 g, 15 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (5.4 g, 12 mmol), N,N-diisopropylethylamine (3.8 mL, 22 mmol) and 4-dimethylaminopyridine (0.87 g, 7.2 mmol) in DMF (30 mL) was stirred at room temperature overnight. The mixture was quenched with water and extracted with ethyl acetate three times. The combined organic layers were washed by brine, dried over sodium sulfate, filtered and concentrated. The crude residue was purified by flash column chromatography to yield the desired product (900 mg, 32.6%). LCMS calculated for C12H15N2O4(M+H): 251.1; found: 251.1.

reactant | benzhydrazide | 11.0 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | butanedioic acid, monomethyl ester | 15 mmol, 2.0 g | C(CCC(=O)[O-])(=O)OC
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 12 mmol, 5.4 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 22 mmol, 3.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | 4-dimethylaminopyridine | 7.2 mmol, 0.87 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl 4-(2-benzoylhydrazino)-4-oxobutanoate | 900 mg, 32.6% | C(C1=CC=CC=C1)(=O)NNC(CCC(=O)OC)=O | C12H14N2O4
